Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
ibuprofen
 
Attending: ___.
 
Chief Complaint:
"I almost attempted suicide today"

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
___ yo F with anxiety and depression who was sent in by BU after 
calling counseling services expressing SI and almost attempting 
to drown herself earlier. Psychiatry was consulted for a safety 
evaluation. 
.
Patient states she has been having difficulty handling the 
academic rigors of college the past few weeks. She has few 
social supports and does not have any current psychiatric 
treaters in the area. This has led to increased SI for the past 
few weeks. They have not had a formed plan most of the time. 
Today, she was running (which she does to help calm down the SI) 
along the Espl___ when suddenly she found herself at the edge 
of the ___ and wanting to jump in to drown herself. She was 
able to talk herself out of it and kept running. 10 min later 
she found herself on the dock with her head almost in the water 
and got
scared and ran back to her dorm immediately. This was concerning 
for her because she didn't even realize she was so close to 
attempting suicide. She feels the SI is becoming more intrusive 
and her attempts to avoid it are not working. She went back to 
her dorm and called her best friend from high school who 
suggested that she call the counseling center, which she did, 
who then sent her here. 
.
Patient has also had lots of thoughts of self injury. She has 
frequent thoughts of cutting her wrists (not for SA), cutting 
her Achilles tendon, or mutilating her vagina. She is disturbed 
by these. She thinks she has these thoughts because she deserves 
punishment and pain. 
.
Patient states she has done IFS therapy (Internal family systems 
model) as well as EMDR (Eye movement desensitization and 
reprocessing). She is very concerned that "she is not her inner 
self. I am worried that I cannot be that person, and if I am not 
that person what is it all worth? What do I do with that?" 
Patient states this is part of the IFS therapy. She is also 
struggling with her religion. She has gone from atheist, 
agnostic, ___, universal spiritual and back and forth. She 
is very distraught about what she believes in. 
.
Psych ROS:
-Psychosis: Endorses AH*: hearing her name called but no one is 
around, Endorses VH: pt states she has occasionally "seen red 
fall from ceiling. I know it is not real but it's so real" 
Patient denies IOR, thought insertion, thought broadcasting, 
paranoia
-Mania: denies decreased need for sleep, elevated mood, rapid 
speech, social/economic indiscretion, grandiosity, impulsivity, 
distractibility
-Anxiety: denies restlessness, ruminations, panic attacks
- PTSD: Denies hypervig, re-experience, nightmares, avoidance  
.
Collateral:
Friend ___ ___
- Patient seemed okay for past week or so, she was making 
friends at ___. She says that patient puts on face 
so show that she has been doing well. She did say that patient 
had a decent amount of trouble adjusting to college, few 
supports, homesick. However, she though things were getting 
better. 
.
Dr. ___ on call BU clinician 
- Patient had called services from a stairwell in her dorm. She 
disclosed that she had been running and found herself almost 
jumping into water to drown herself. She has had problems with 
adjusting to school and increased stress about midterm tomorrow. 
Hx of 1 SA by similar episode ___ year ago. 
.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Diagnoses: Anxiety, depression
Hospitalizations: denies
Current treaters and treatment: none
Medication and ECT trials: none
Self-injury: Hx of attempt of SA by drowning ___ yo
Harm to others: denies
.
PAST MEDICAL HISTORY:
Asthma
eczema

 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Mother has alcohol and drug abuse
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
VS:T:97.9 P:67   BP: 108/70  RR:16   SaO2: 100% (RA)
* General: Well-nourished, well-developed, in no apparent 
distress. Appears stated age. Good hygiene, appropriately 
dressed in hospital gown.
* HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
* Neck: Supple, trachea midline. No adenopathy or thyromegaly.
* Back: No significant deformity, no focal tenderness.
* Lungs: Clear to auscultation; no crackles or wheezes.
* CV: Regular rate and rhythm; no murmurs/rubs/gallops; 2+ pedal 
pulses.
* Abdomen: Soft, nontender, nondistended; no masses or 
organomegaly.
* Extremities: No clubbing, cyanosis, or edema.
* Skin: Warm and dry, no rashes, scars, or lesions.
.
Neurological:
  *Cranial Nerves-
       I: Not tested.
       II: Pupils equally round and reactive to light 
bilaterally. Visual fields are full to confrontation.
      III, IV, VI: Extraocular movements intact bilaterally 
without nystagmus.
      V, VII: Facial strength and sensation intact and 
symmetric.
      VIII: Hearing intact to voice.
      IX, X: Palatal elevation symmetrical.
      XI: Sternocleidomastoid and trapezius normal bilaterally.
      XII: Tongue midline without fasciculations.
  *Motor- Normal bulk and tone bilaterally. No abnormal 
movements, no tremors. Strength full power ___ throughout. No 
gross focal motor or sensory deficits, normal gait.
  *Coordination- 
Normal on finger-nose-finger, rapid alternating movements, heel 
to shin.
  *Deep tendon reflexes- 2+ and symmetrical, toes downgoing.
  *Sensation- intact to light touch, position sense intact.
  *Gait- steady, no truncal ataxia, normal stance and posture.
.
NEUROPSYCHIATRIC EXAMINATION:
* Appearance: no apparent distress, appears stated age, good 
hygiene, appropriately dressed
* Behavior: calm, cooperative, engaged, friendly, pleasant, 
appropriate eye contact, orients to interviewer, no abnormal 
posturing, no psychomotor agitation or retardation
* Orientation: oriented to ___ as well as person, 
place, and situation
* Mood: "denying reality"
* Affect: euthymic, constricted, normal intensity, inappropriate 
to situation, incongruent with mood
* Thought Process: linear, coherent, goal-oriented, no loose 
associations
* Thought Content: +SI but no intent, delusions and paranoia 
absent, does not appear to be responding to internal stimuli but 
does report AH/VH
* Impulse Control: fair
* Judgment: fair
* Insight: fair
* Speech: fluent, normal rate, tone, volume, and prosody, no 
paraphasic errors
.
COGNITION:
* Memory: ___ registration, ___ recall at 5 min; remote intact
* Concentration: good
* Abstraction: apple/orange = "fruit"
* Proverb: correctly interprets "The apple doesn't fall far from 
the tree"
* Calculation: $1.75 = "7 quarters"
* Fund of knowledge: able to name ___ play by ___
* Attention span: able to list MOYB without error
* Language: appropriate to conversation
.

 
Pertinent Results:
___ 08:58PM   GLUCOSE-85 UREA N-16 CREAT-0.7 SODIUM-140 
POTASSIUM-4.6 CHLORIDE-102 TOTAL CO2-28 ANION GAP-15
___ 08:58PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:58PM   WBC-11.9* RBC-4.63 HGB-13.2 HCT-41.3 MCV-89 
MCH-28.5 MCHC-32.0 RDW-12.6 RDWSD-40.7
___ 08:58PM   NEUTS-62.7 ___ MONOS-4.2* EOS-0.8* 
BASOS-0.3 IM ___ AbsNeut-7.42* AbsLymp-3.76* AbsMono-0.50 
AbsEos-0.10 AbsBaso-0.03
___ 08:58PM   PLT COUNT-366
___ 07:50PM URINE  UCG-NEGATIVE
___ 07:50PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 07:50PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
 
Brief Hospital Course:
Brief Hospital Course:
 SAFETY:  The pt. was placed on 15 minute checks on admission, 
unit restricted, and remained on this observation level 
throughout this hospitalization.  Patient remained in good 
behavioral control throughout this hospitalization. She required 
no chemical or physical restraints. 
.
LEGAL: ___
 PSYCHIATRIC:
   #).Major depressive disorder:
On admission interview, patient confirmed much of the above 
history from initial presentation.  She reported several weeks 
of worsening mood and increasing anxiety.  She reported 
intermittent SI, and reported that she nearly drowned herself 
when running along the ___.  Patient described SI as 
ego dystonic, and appeared quite surprised by this near suicide 
attempt.  Patient reported associated depressive symptoms of 
poor sleep, difficulty with concentration, and hopelessness.  
Patient identified stressors likely contributing to this 
episode, primarily noting academic stressors of an overly 
burdensome course load, difficulty adjusting to her new school 
environment, few friends at ___, and recent questioning 
of her religious and spiritual identity.  Patient has had 
success in past using IFS and EMDR therapies, but does not have 
a therapist or psychiatrist in the ___ area, and felt that 
she was not spending adequate time using these therapies.  
Clinical presentation was most consistent with major depressive 
disorder, although one could also consider an adjustment 
disorder with depressed mood.  
.
From a psychopharmacologic standpoint, patient had not 
previously used any medications.  To target her depressed mood, 
anxiety, and poor sleep, patient was started on mirtazapine, 
which was uptitrated to 15mg po qHS.  On this regimen, patient 
reported markedly improved sleep.  She tolerated this medication 
well, with no adverse effects reported or observed.  Throughout 
this hospitalization, patient consistently denied SI, denied HI, 
and denied AVH.  Patient remained future-oriented, with plans to 
resume school at ___, and plans to decrease her course load next 
semester.  Patient was actively engaged in the therapeutic 
process, meeting with treatment team daily for individual 
therapy, and also participating in group and milieu therapy as 
tolerated. Patient expressed interest in finding a EMDR and 
IFS-trained therapist in the ___ area.  On discharge, patient 
was scheduled for an appointment with ___ Behavioral ___ on 
afternoon following discharge from inpatient unit.  Patient was 
also provided with a list of IFS therapists to follow-up with in 
the ___ area.  As organized and coordinated by social worker, 
BU agreed to assist the patient with psychopharmacology 
follow-up. On discharge, patient was written for prescription 
for one month supply of mirtazapine 15mg po qHS.
.
 GENERAL MEDICAL CONDITIONS:
#.Eczema:  Patient was continued on her home azithromycin 250mg 
po every other day, which was tolerated well.  Patient should 
continue to follow with her outpatient treaters for her eczema.
.
#.Asthma: Patient was continued on her home ProAir HFA albuterol 
inhaler q4h prn SOB/wheeze. Patient's asthma remained 
asymptomatic during this hospitalization, and she remained 
hemodynamically stable. Patient should continue to follow with 
her PCP for her asthma management.
.
No other acute or chronic medical conditions during this 
hospitalization.
.
 PSYCHOSOCIAL:
 #) GROUPS/MILIEU: Pt was encouraged to participate in unit’s 
groups/milieu/therapy opportunities as appropriate. She was very 
visible and engaged in the unit and had conversations with 
select peers. She attended groups as tolerated. She never 
engaged in any unsafe behaviors. She ate all meals in the 
milieu, slept well, and cooperated with group rules. Therapy 
addressed family/social/work issues. 
.
 #) FAMILY INVOLVEMENT: Patient's family was contacted by our 
team's social worker, and was provided with updates on treatment 

plan and aftercare plans.
.
 #) INTERVENTIONS:
 - Medications: mirtazapine
 - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy.
 - Behavioral Interventions (e.g. encouraged DBT skills, ect):  
Patient was encouraged to continue to participate in groups as 
tolerated, with particular emphasis on identifying positive 
coping mechanisms
.
 INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting these medications, and risks  and benefits of possible 
alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team, and I 
answered the patient's questions. The patient appeared able to 
understand and consented to begin the medication.
.  
 RISK ASSESSMENT:
 #) Chronic/Static Risk Factors:
-history of chronic mental illness with recent near suicide 
attempt
.  
 #) Modifiable Risk Factors:
-lack of outpatient treaters
.
 #) Protective Factors:
-patient is help seeking
-patient is sober
-patient is currently medication compliant
-patient has strong interpersonal support from her family
.
 PROGNOSIS:  Patient has potential for good longterm prognosis, 
as she has numerous strengths, including the fact that she is 
intelligent, educated, help seeking, medication compliant, and 
has been established with outpatient treaters. Patient continue  
to require longterm outpatient psychopharmacology management 
closely monitored by her outpatient treaters.
.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
q4h PRN wheezing, SOB 

 
Discharge Medications:
1. Azithromycin 250 mg PO EVERY OTHER DAY 
2. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
q4h PRN wheezing, SOB 
3. Mirtazapine 15 mg PO QHS 
RX *mirtazapine 15 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
major depressive disorder

 
Discharge Condition:
Neurological:
    *station and gait: normal gait and station
    *tone and strength: antigravitational in all 4 extremities
    cranial nerves: CN II-XII grossly intact, no focal deficits
    abnormal movements: no PMA/PMR
  *Appearance: well groomed female appearing stated age, in no
acute distress
  Behavior: Calm and cooperative, interactive, answers questions
appropriately
  *Mood and Affect: Mood is 'more optimistic than before' Affect
is overall euthymic, reactive, normal range, congruent with mood
  *Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
Linear, goal oriented
  *Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): Denies SI, Denies HI, Denies AVH
  *Judgment and Insight: Fair / Fair
  Cognition:
    *Attention, *orientation, and executive function: Alert and
oriented, attentive to interview at hand
    *Memory: good remote and short term memory
    *Fund of knowledge: appropriate 
    *Speech: somewhat quick, normal tone, normal volume normal
prosody
    *Language: fluent ___, no paraphrasic errors

 
Discharge Instructions:
Psychiatry Discharge Instructions
.
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
 
*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___